US07875645B2
b) Butyl-[1-(2-chloro-6-ethyl-phenyl)-meth-(E)-ylidene]-amine
This compound was prepared using methodology described in Synthesis 1999, 2138-2144. To a solution of 21.2 g (99.2 mmol) butyl-[1-(2-chloro-6-fluoro-phenyl)-meth-(E)-ylidene]-amine in 150 ml tetrahydrofuran at 0° C. was added dropwise 38.0 ml (114 mmol) of a 3 M solution of ethylmagnesium bromide in ether at such a rate that the temperature of the reaction mixture was maintained below 20° C. After the addition was complete, the reaction mixture was stirred for a further 1 h at room temperature. The reaction mixture was then quenched by dropwise addition of water and diluted with ethyl acetate. The mixture was washed sequentially with water and with saturated brine, then the organic phase was dried over Na2SO4, filtered and concentrated in vacuo. The residue was resuspended in carbon tetrachloride and concentrated in vacuo again to afford 19.7 g (89%) of the title compound as a yellow oil which was used in the next step without further purification. MS (ISP): 226.3 ([M+H]+, 30%), 224.3 ([M+H]+, 100%).

reactant | butyl-[1-(2-chloro-6-fluoro-phenyl)-meth-(E)-ylidene]-amine | 99.2 mmol, 21.2 g | C(CCC)/N=C/C1=C(C=CC=C1F)Cl | C11H13ClFN
reactant | ethylmagnesium bromide | C(C)[Mg]Br
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | Butyl-[1-(2-chloro-6-ethyl-phenyl)-meth-(E)-ylidene]-amine | 19.7 g, 89% | C(CCC)/N=C/C1=C(C=CC=C1CC)Cl | C13H18ClN
